US05849757
Ethyl 1-tert-butoxycarbonylamino-β-oxocyclobutanepropanoate
To a 100.0 ml portion of ethanol were added 5.0 g (0.21 mmol) of magnesium and 15.0 ml of carbon tetrachloride in that order, followed by 1 hour of stirring at room temperature. Thereto was added dropwise ethyl hydrogen malonate. After 1 hour of stirring at room temperature, the solvent was evaporated to yield magnesium malonate as a colorless foamy substance. Separately, 55.29 g (0.26 mmol) of 1-tert-butoxycarbonylaminocyclobutanecarboxylic acid was dissolved in 450.0 ml of THF, mixed with 45.81 g (0.28 mmol) of 1,1'-carbonyldiimidazole and then stirred at room temperature for 1.5 hours. To this was added dropwise 450.0 ml of THF solution of the above magnesium salt in 30 minutes, followed by 2 days of stirring at room temperature. After evaporation of the solvent, the resulting residue was distributed between 10% citric acid aqueous solution and ethyl acetate. The resulting organic layer was washed with saturated sodium bicarbonate aqueous solution and saturated brine and then dried over anhydrous sodium sulfate. By evaporating the solvent, the title compound was obtained quantitatively.

reactant | 1-tert-butoxycarbonylaminocyclobutanecarboxylic acid | 0.26 mmol, 55.29 g | C(C)(C)(C)OC(=O)NC1(CCC1)C(=O)O | C10H17NO4
reactant | 1,1'-carbonyldiimidazole | 0.28 mmol, 45.81 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | THF | 450.0 ml | C1CCOC1 | C4H8O
reactant | THF | 450.0 ml | C1CCOC1 | C4H8O
product | Ethyl 1-tert-butoxycarbonylamino-β-oxocyclobutanepropanoate | C(C)(C)(C)OC(=O)NC1(CCC1)C(CC(=O)OCC)=O | C14H23NO5
